US07173031B2
B) 4-Chloro-5-isopropylpyrrolo[2,1-f][1,2,4]triazine
5-Isopropylpyrrolo[2,1-f][1,2,4]triazin-4 (3H)-one (0.035 g, 0.198 mmol, 1.0 equiv) was added to phosphorous oxychloride (2.0 ml, 21.5 mmol, 109 equiv) under a nitrogen atmosphere. The reaction mixture was heated to reflux for 1.5 h. The mixture was cooled to room temperature then concentrated in vacuo. The residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous layer was extracted twice with ethyl acetate. The combined organic washes were dried over anhydrous magnesium sulfate and concentrated in vacuo to yield a tan solid that was used in the next step without further purification. MS(ESI+) m/z 196 (M+H)+.

reactant | 5-Isopropylpyrrolo[2,1-f][1,2,4]triazin-4 (3H)-one | 0.198 mmol, 0.035 g, 1.0 equiv | C(C)(C)C=1C=CN2N=CNC(C21)=O | C9H11N3O
reactant | phosphorous oxychloride | 21.5 mmol, 2.0 ml, 109 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-isopropylpyrrolo[2,1-f][1,2,4]triazine | ClC1=NC=NN2C1=C(C=C2)C(C)C | C9H10ClN3
